US06248739B1
A flask containing N-[4-(4-morpholinylmethyl)phenyl]tetrahydro-2H-pyran-4-amine (0.34 g) is treated with diethyl ethoxymethylenemalonate (0.30 mL) and pyridine (0.20 mL). The flask is tightly capped and heated to 140° C. for 2 hours. The reaction is cooled to room temperature and azeotroped under reduced pressure with toluene (3×). The residue is dissolved in dichloromethane and washed with water, brine, dried and concentrated under reduced pressure. The residue is chromatographed on silica eluting with 2% to 6% methanol in dichloromethane. The product-containing fractions are evaporated to give 0.41 g of diethyl 2-{[4-(4-morpholinylmethyl)(tetrahydro-2H-pyran-4-yl)anilino]methylene}malonate as a tan oil.

reactant | N-[4-(4-morpholinylmethyl)phenyl]tetrahydro-2H-pyran-4-amine | 0.34 g | N1(CCOCC1)CC1=CC=C(C=C1)NC1CCOCC1 | C16H24N2O2
reactant | diethyl ethoxymethylenemalonate | 0.30 mL | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | pyridine | 0.20 mL | N1=CC=CC=C1 | C5H5N
product | diethyl 2-{[4-(4-morpholinylmethyl)(tetrahydro-2H-pyran-4-yl)anilino]methylene}malonate | 0.41 g | N1(CCOCC1)CC1=CC=C(N(C2CCOCC2)C=C(C(=O)OCC)C(=O)OCC)C=C1 | C24H34N2O6
